US05017724
5.4 Milliliters of triethylamine and then 1.43 ml of acetyl chloride were added dropwise to a solution of a chloroform solution containing 5.0 g of 8-hydroxy-5-methyl-9-methylamino-7-(1-methyl-2-propenyl)-1,2,3,4,4a,9a-hexahydrofluorene hydrochloride with stirring under ice-cooling, followed by stirring at room temperature for 1 hour. Water was added to the reaction mixture and extraction was effected with chloroform. The extract was dried with magnesium sulfate and the solvent was distilled off. The residue was purified by a silica gel column chromatography (eluent: ethyl acetate:n-hexane=1:4) and then recrystallized from ethanol to obtain 4.36 g of 8-hydroxy-5-methyl-9-(N-methyl-N-acetylamino)-7-(1-methyl-2-propenyl)-1,2,3,4,4a,9a-hexahydrofluorene.

reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 1.43 ml | C(C)(=O)Cl | C2H3ClO
reactant | 8-hydroxy-5-methyl-9-methylamino-7-(1-methyl-2-propenyl)-1,2,3,4,4a,9a-hexahydrofluorene hydrochloride | 5.0 g | Cl.OC=1C(=CC(=C2C3CCCCC3C(C12)NC)C)C(C=C)C
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | Water | O | H2O
product | 8-hydroxy-5-methyl-9-(N-methyl-N-acetylamino)-7-(1-methyl-2-propenyl)-1,2,3,4,4a,9a-hexahydrofluorene | 4.36 g | OC=1C(=CC(=C2C3CCCCC3C(C12)N(C(C)=O)C)C)C(C=C)C | C21H29NO2
